US06130238
Chloral hydrate (9.6 g) was dissolved in 200 mL of water containing 83 g of sodium sulfate. The solution was warmed to 60° C., a solution of 11.4 g of hydroxylamine hydrochloride in 50 mL of water was added and the mixture was held at 60° C. In a separate flask, 6.4 g of 4-anisidine and 4.3 mL of concentrated hydrochloric acid in 80 mL of water was warmed to 80° C. The first solution was added to the second and the mixture refluxed for 2 minutes after which it was cooled slowly to room temperature and then cooled in an ice bath. The tan precipitate was collected by vacuum filtration, washed with water and dried under vacuum to give 8.6 g (85% yield) of N-(2-hydroximinoacetyl)anisidine.

reactant | Chloral hydrate | 9.6 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | hydroxylamine hydrochloride | 11.4 g | Cl.NO
reactant | 4-anisidine | 6.4 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | hydrochloric acid | 4.3 mL | Cl | ClH
solvent | water | 200 mL, 83 g | O | H2O
solvent | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 50 mL | O | H2O
solvent | water | 80 mL | O | H2O
product | N-(2-hydroximinoacetyl)anisidine | 8.6 g, 85% yield | N(O)=CC(=O)NC1=CC=C(OC)C=C1 | C9H10N2O3
